US04634769
2,3-Dimethoxy-6-nitrobenzaldehyde
2-Hydroxy-3-methoxy-6-nitrobenzaldehyde potassium salt was slurried in acetone (500 mL) containing potassium carbonate (50 g) and the suspension was treated with dimethylsulfate (18.5 mL) and heated to reflux for one hour. An additional aliquot (18.5 mL) of dimethylsulfate was then added and the mixture was heated overnight. After 24 hours the red color of the potassium salt was virtually absent. The salts were removed by filtration, the filtrate was concentrated and the residue was recrystallized from isopropanol to give the title compound 40.0 g (80% from 3) mp 109°-110° C.

reactant | 2-Hydroxy-3-methoxy-6-nitrobenzaldehyde potassium salt | [K].OC1=C(C=O)C(=CC=C1OC)[N+](=O)[O-]
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfate | 18.5 mL | COS(=O)(=O)OC | C2H6O4S
reactant | dimethylsulfate | 18.5 mL | COS(=O)(=O)OC | C2H6O4S
reactant | potassium | [K] | K
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 2,3-Dimethoxy-6-nitrobenzaldehyde | 40.0 g, 80% | COC1=C(C=O)C(=CC=C1OC)[N+](=O)[O-] | C9H9NO5
